US07507734B2
c) 6-Formyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester
2 g 6-Hydroxymethyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester is dissolved in 46 mL dichloromethane. After addition of 1.61 g activated manganese (IV) oxide the reaction mixture is heated to reflux for 1 hour. Then every two hours additional manganese (IV) oxide is added until the conversion is complete. The reaction mixture is diluted with dichloromethane and filtered over celite. 1.63 g (82%) crude product is obtained, which is directly used in the next reaction.

reactant | 6-Hydroxymethyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)CO)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C24H24N4O4
solvent | dichloromethane | 46 mL | ClCCl | CH2Cl2
catalyst | manganese (IV) oxide | [O-2].[Mn+4].[O-2]
product | 6-Formyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | 1.63 g, 82% | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)C=O)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C24H22N4O4
